US07053212B2
Step C: N-(4-Benzyloxy-phenyl)-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
To a solution of (4-benzyloxy-phenyl)-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (12.7 g, 32.6 mmol) in 25 mL methylene chloride at 0° C. was added triethylamine (14.0 mL, 97.8 mmol), DMAP (0.400 g, 3.27 mmol) and 2-mesitylenesulfonyl chloride (14.3 g, 65.2 mmol). The reaction mixture was stirred at room temperature for 17 hr. The reaction mixture was diluted to a volume of 800 mL with methylene chloride and was washed with water (3×200 mL) and saturated aqueous sodium chloride (1×200 mL). The organic layer was dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography (10% ethyl acetate/hexanes to 25% ethyl acetate/hexanes) afforded 8.82 g of the title compound of Step C.

reactant | (4-benzyloxy-phenyl)-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 32.6 mmol, 12.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C25H27NO3
reactant | triethylamine | 97.8 mmol, 14.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylenesulfonyl chloride | 65.2 mmol, 14.3 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3.27 mmol, 0.400 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-Benzyloxy-phenyl)-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 8.82 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1 | C34H37NO5S
